US08466283B2
Step 5: Preparation of N-{8-[2-(4-ethylmorpholin-2-yl)ethoxy]-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl}nicotinamide
N-[7-Methoxy-8-(2-morpholin-2-ylethoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]nicotinamide trifluoroacetate (100 mg, 0.18 mol) in THF was treated with acetaldehyde (30 μL, 0.53 mmol) and stirred for 30 min. before adding sodium triacetoxyborohydride (113 mg, 0.53 mmol) and acetic acid (13 μL, 0.23 mmol). The reaction mixture was stirred at 60 C overnight after which it was diluted with methanol and a drop of 2 N hydrochloric acid to dissolve all solids. The crude solution was purified by HPLC (Gilson, 5% MeCN/95% H2O to 50% MeCN/50% H2O gradient, 0.1% TFA). The fractions were concentrated under reduced pressure then diluted with a minimum of methanol and pulled through a silica bound NH2 cartridge to give the title compound as a solid (17 mg, 20%): HPLC MS RT=0.21 min, MH+=479.1; 1H NMR (DMSO-d6) δ: 12.75 (1H, s), 9.32 (1H, s), 8.71 (1H, d), 8.45 (1H, d), 7.59 (1H, d), 7.54-7.47 (1H, m), 7.06 (2H, d), 4.23-4.08 (3H, m), 4.06-3.98 (2H, m) 3.92 (3H, s), 3.77 (1H, d), 3.67-3.57 (1H, m), 3.46 (1H, t), 2.84 (1H, d), 2.68 (1H, d), 2.30 (2H, q), 1.99-1.79 (3H, m), 1.74 (1H, t), 0.99 (3H, t).

reactant | N-[7-Methoxy-8-(2-morpholin-2-ylethoxy)-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl]nicotinamide trifluoroacetate | 0.18 mol, 100 mg | FC(C(=O)O)(F)F.COC1=C(C=CC=2C=3N(C(=NC12)NC(C1=CN=CC=C1)=O)CCN3)OCCC3CNCCO3
reactant | acetaldehyde | 0.53 mmol, 30 μL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 0.53 mmol, 113 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.23 mmol, 13 μL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | N-{8-[2-(4-ethylmorpholin-2-yl)ethoxy]-7-methoxy-2,3-dihydroimidazo[1,2-c]quinazolin-5-yl}nicotinamide | 17 mg, 20% | C(C)N1CC(OCC1)CCOC=1C=CC=2C=3N(C(=NC2C1OC)NC(C1=CN=CC=C1)=O)CCN3 | C25H30N6O4
